US08445501B2
trans-4-(2-Cyclopropylmethoxy-4-methoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [4-(2-methoxy-ethylcarbamoyl)-cyclohexyl]-amide
Starting from 4-(2-cyclopropylmethoxy-4-methoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (example A73) and trans-4-amino-cyclohexanecarboxylic acid (2-methoxy-ethyl)-amide hydrochloride (A196) the title compound is obtained as colorless solid.

reactant | 4-(2-cyclopropylmethoxy-4-methoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid | C1(CC1)COC1=C(C=CC(=C1)OC)C=1C2=C(N=CN1)C(=CN2)C(=O)O | C18H17N3O4
reactant | trans-4-amino-cyclohexanecarboxylic acid (2-methoxy-ethyl)-amide hydrochloride | Cl.COCCNC(=O)[C@@H]1CC[C@H](CC1)N
product | trans-4-(2-Cyclopropylmethoxy-4-methoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [4-(2-methoxy-ethylcarbamoyl)-cyclohexyl]-amide | COCCNC(=O)[C@@H]1CC[C@H](CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=C(C=C2)OC)OCC2CC2 | C28H35N5O5
